US04927838
Triphenylphosphine (26.3 g) and 8-bromooctanoic acid (21.3 g) were reacted as in Example 82. The crude salt was crystallized from a mixture of ethanol (100 mL), chloroform (200 mL) and ether (500 mL) to give 41 g of (7-carboxyheptyl) triphenylphosphonium bromide, mp 121°-123° C. Anal. Calculated for C26H30BrO2P: C, 64.33; H, 6.23; Br, 16.46. Found: C, 63.97; H, 6.23; Br, 16.07.

reactant | Triphenylphosphine | 26.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 8-bromooctanoic acid | 21.3 g | BrCCCCCCCC(=O)O | C8H15BrO2
product | (7-carboxyheptyl) triphenylphosphonium bromide | 41 g | [Br-].C(=O)(O)CCCCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C26H29O2P.BrH/c27-26(28)21-13-2-1-3-14-22-29(23-15-7-4-8-16-23,24-17-9-5-10-18-24)25-19-11-6-12-20-25;/h4-12,15-20H,1-3,13-14,21-22H2;1H
